US05977110
Step 4: Preparation of trans-Pyrimidin-2-yl-(4-{2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-ethyl}-cyclohexyl)-amine
A mixture of trans-[4-(2-Bromoethyl)-cyclohexyl]-pyrimidin-2-yl-amine (0.26 g, 0.91 mmol), 1-(3-trifluoromethyl-phenyl)-piperazine (0.21 g, 0.91 mmol), and potassium carbonate (0.21 g, 1.5 mmol) was heated in 10 mL refluxing acetonitrile for 18 hours. The reaction was diluted with methylene chloride, filtered, and the solvents were removed under reduced pressure. The residue was partitioned between chloroform and aqueous 2N sodium carbonate solution. The organic layer was dried over sodium sulfate and evaporated. The resulting residue was recrystallized from acetonitrile to give the title compound; mp 167° C.

reactant | trans-[4-(2-Bromoethyl)-cyclohexyl]-pyrimidin-2-yl-amine | 0.91 mmol, 0.26 g | BrCC[C@@H]1CC[C@H](CC1)NC1=NC=CC=N1 | C12H18BrN3
reactant | 1-(3-trifluoromethyl-phenyl)-piperazine | 0.91 mmol, 0.21 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | potassium carbonate | 1.5 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-Pyrimidin-2-yl-(4-{2-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-ethyl}-cyclohexyl)-amine | N1=C(N=CC=C1)N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C23H30F3N5
